US08492548B2
To a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (300 mg, 0.89 mmol) in EtOAc (5 ml), was added 4-(2-bromoacetyl)benzoic acid (238 mg, 0.98 mmol), and the reaction was stirred at r.t. for 15 hours. The precipitate was collected by suction filtration to obtain (R)-1-(2-(4-carboxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (500 mg, 97% yield).

reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 0.89 mmol, 300 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
reactant | 4-(2-bromoacetyl)benzoic acid | 0.98 mmol, 238 mg | BrCC(=O)C1=CC=C(C(=O)O)C=C1 | C9H7BrO3
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
product | (R)-1-(2-(4-carboxyphenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 500 mg, 97% yield | [Br-].C(=O)(O)C1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C30H30N2O5.BrH/c33-26(21-11-13-24(14-12-21)29(34)35)19-32-17-15-22(16-18-32)27(20-32)37-30(36)28(23-7-3-1-4-8-23)31-25-9-5-2-6-10-25;/h1-14,22,27-28,31H,15-20H2;1H/t22?,27-,28+,32?;/m0./s1
